US07569604B2
2,3-Dihydro-indole-1-carbaldehyde
A solution of indoline (47.4 g, 398 mmol) and formic acid (30 g, 652 mmol, 1.64 eq.) in toluene (175 mL) was heated at reflux with azeotropic removal of water. After 3 h, the reaction mixture was cooled to RT. The solution was washed with water and brine, dried over Na2SO4 and concentrated. The residue was triturated with TBME and heptanes. The precipitate was filtered off, washed with heptanes and pentane and dried in vacuo at 45° C. for 4 h. Yield: 50.46 g, (86%).

reactant | indoline | 398 mmol, 47.4 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | formic acid | 652 mmol, 30 g, 1.64 eq. | C(=O)O | CH2O2
reactant | water | O | H2O
solvent | toluene | 175 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-indole-1-carbaldehyde | N1(CCC2=CC=CC=C12)C=O | C9H9NO
